Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Taxol / lisinopril / Doxil
 
Attending: ___.
 
Chief Complaint:
paclitaxel desensitization
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ year old female with recurrent ovarian
cancer who presents for C3 of carboplatin/paclitaxel and
paclitaxel desensitization.

She was recently admitted on ___ for cycle 2 with
desensitization which was tolerated well. 

Since discharge, she was been feeling well. She endorses taking
her H2 antagonist last evening and this morning.

She has no fevers or chills. No rhinorrhea or sore throat. No
chest pain or dyspnea. No n/v/d. No abd pain. No dysuria.

ROS: 10 point review of systems discussed with patient and
negative unless noted above

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
- ___ Presented with abdominal bloating and work-up was
consistent with ovarian cancer. 
- ___ optimal debulking surgery for stage IIIA ovarian
cancer, grade 3 serous
- ___ BRCA2 mutation (___)
- ___ Completed IP chemotherapy x 6 cycles
- ___ Asymptomatic rise in CA125
- ___ Doxil severe anaphylactic reaction requiring
hydrocortisone/benadryl/epinephrine with observation in the ER. 
- ___ C1 Carboplatin/Paclitaxel via desensitization protocol
 
PAST MEDICAL HISTORY: 
- HTN
- L5-S1 disc herniation
- Sciatica
- Prepatellar bursitis
- ___ right breast biopsy benign
- History of SBOs

 
Social History:
___
Family History:
- Father ___ ca
- P-aunt breast and ovarian cancers
- Mother melanoma
- MGM colon ca
- maternal cousin- breast BRCA2+

 
Physical Exam:
ADMISSION AND DISCHARGE (DISCHARGED SAME DAY)
VITALS: ___ 0804 Temp: 98.1 PO BP: 116/73 R Sitting HR: 76
RR: 18 O2 sat: 100% O2 delivery: RA Dyspnea: 0 RASS: 0 Pain
Score: ___ 
   
GENERAL:  NAD
HEENT: clear PO, moist membranes without lesions
EYES:  PERRL, anicteric
NECK:  supple
RESP:  CTAB, no wheezing, rhonchi or crackles
___:  RRR no MRG
GI:  soft, NTND no HSM
EXT:  warm, no edema
SKIN:  dry, no rashes
ACCESS:  R POC c/d/i
 
Pertinent Results:
None
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with recurrent ovarian 
cancer (BRCA2+) who presents for C2D1 Carboplatin/Paclitaxel 
with paclitaxel desensitization. She tolerated treatment well. 

# Encounter for chemotherapy
# Hypersensitivity to Paclitaxel
# Ovarian cancer
Received pre-medication per protocol. Patient received 
medication per OMS order set without incident. Instructed to 
take dexamethasone BID x3 days for nausea ppx

# HNT
Losartan held in house due to concern for potential allergic 
reaction. Pt to resume upon discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Dexamethasone 4 mg PO ASDIR 
2. LORazepam 0.5 mg PO Q6H:PRN nausea/vomiting/anxiety/insomnia 
3. Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting 
4. Valsartan 40 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Ondansetron 8 mg PO Q8H:PRN nausea/vomiting 

 
Discharge Medications:
1.  Dexamethasone 4 mg PO ASDIR  
2.  LORazepam 0.5 mg PO Q6H:PRN nausea/vomiting/anxiety/insomnia 
 
3.  Multivitamins 1 TAB PO DAILY  
4.  Ondansetron 8 mg PO Q8H:PRN nausea/vomiting  
5.  Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting  
6.  Valsartan 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Encounter for chemotherapy
# Hypersensitivity to paclitaxel
# Ovarian cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___. You were admitted for your scheduled 
chemotherapy with desensitization protocol, which you tolerated 
well. Please take the dexamethasone and compazine twice daily 
for the next three days. You should follow up with Dr. ___ as 
previously planned. 

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___